US04731368
Step B: Preparation of 2-Sulfamoylthieno[3,2-b]pyridin-5(4H)-one
A suspension of N,N-dimethyl-N'-(4-oxido-thieno[3,2-b]pyridine-2-sulfonyl)formamidine (6.23 g, 22.6 mmol) in acetic anhydride (70 ml), under a nitrogen atmosphere, was heated at 140° C. for 20-22 hours to give a dark solution. The excess acetic anhydride was removed on a rotary evaporator and 6 N HCl (90 ml) was added to the residue and it was warmed at 80° C. for four hours. This reaction mixture was cooled and ice was added as product began to precipitate. Upon standing several crops were collected by filtration. The combined crude product (2.2 g) was dissolved in a large volume of boiling water, filtered and allowed to cool. Pure product was obtained (1.72 g, 33% yield). This material was recrystallized by dissolution in a minimum volume of hot dimethylsulfoxide. This solution was treated with charcoal, filtered, and diluted with ethanol as product crystallized (1.3 g), m.p. >300° C.

reactant | N,N-dimethyl-N'-(4-oxido-thieno[3,2-b]pyridine-2-sulfonyl)formamidine | 22.6 mmol, 6.23 g | CN(C=NS(=O)(=O)C1=CC2=[N+](C=CC=C2S1)[O-])C | C10H11N3O3S2
reactant | acetic anhydride | 70 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Sulfamoylthieno[3,2-b]pyridin-5(4H)-one | 33% yield | S(N)(=O)(=O)C1=CC=2NC(C=CC2S1)=O | C7H6N2O3S2
